US07985755B2
5-[4-(Naphthalene-2-sulfonyl)-piperazin-1-yl]-quinazoline-2,4-diamine
Title compound was prepared via Resin Method using 5-piperazin-1-yl-quinazoline-2,4-diamine (50 mg; 0.2 mmol) and 2-naphthalene-sulfonyl chloride (79.8 mg; 0.41 mmol) to obtain 50.0 mg. (58% yield). 1H NMR (400 MHz, DMSO-d6) δ 8.52 (s, 1H), 8.31 (br s, 1H), 8.23 (m, 2H), 8.13 (m, 1H), 7.84 (m, 1H), 7.77 (m, 2H), 7.37 (m, 1H), 6.96 (d, J=8.0 Hz, 1H), 6.83 (m, 2H), 5.90 (br s, 2H), 3.82 (br d, J=11.2 Hz, 2H), 3.11 (br d, J=12.0 Hz, 2H), 2.87 (m, 2H), 2.64 (m, 2H). ESIMS+436.0 m/z

reactant | 5-piperazin-1-yl-quinazoline-2,4-diamine | 0.2 mmol, 50 mg | N1(CCNCC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C12H16N6
reactant | 2-naphthalene-sulfonyl chloride | 0.41 mmol, 79.8 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | 5-[4-(Naphthalene-2-sulfonyl)-piperazin-1-yl]-quinazoline-2,4-diamine | 58% yield | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CCN(CC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C22H22N6O2S
